US07612099B2
N-(2-{2-[(5-Benzyl-4-hydroxy-2-oxo-2,5-dihydro-furan-3-yl)-phenyl-methyl]-5-fluoro-1H-indol-3-yl}-ethyl)-acetamide
Using general procedure C, 5-benzyl-4-hydroxy-5H-furan-2-one (Lit. 13) was reacted with benzaldehyde and N-[2-(5-fluoro-1H-indol-3-yl)-ethyl]-acetamide (Lit. 5) to give the title compound as pale yellow solid. MS: 497.4 ([M−H]−).

reactant | 5-benzyl-4-hydroxy-5H-furan-2-one | C(C1=CC=CC=C1)C1C(=CC(O1)=O)O | C11H10O3
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | N-[2-(5-fluoro-1H-indol-3-yl)-ethyl]-acetamide | FC=1C=C2C(=CNC2=CC1)CCNC(C)=O | C12H13FN2O
product | N-(2-{2-[(5-Benzyl-4-hydroxy-2-oxo-2,5-dihydro-furan-3-yl)-phenyl-methyl]-5-fluoro-1H-indol-3-yl}-ethyl)-acetamide | C(C1=CC=CC=C1)C1C(=C(C(O1)=O)C(C=1NC2=CC=C(C=C2C1CCNC(C)=O)F)C1=CC=CC=C1)O | C30H27FN2O4
